US07968570B2
A mixture of 5-bromo-7-chloro-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.210 g, 0.5 mmol), PdCl2(PPh3)2 (0.019 g, 0.05 mmol), and CuI (0.010 g, 0.05 mmol) in diisopropyl amine (4 mL) was treated with trimethyl-prop-2-ynyl-silane (0.141 mL, 1 mmol) and stirred at ambient temperature for 16 h. The reaction mixture diluted with dichloromethane (20 mL) filtered and concentrated. Silica gel column chromatography using 3:1 hexane-ethyl acetate afforded 7-chloro-2-(4-trifluoromethoxy-benzyl)-5-trimethylsilanylethynyl-2,3-dihydro-isoindol-1-one (0.100 g, 46%). GC-MS: 437 (M)+, 356 (M-81)+.

reactant | 5-bromo-7-chloro-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.5 mmol, 0.210 g | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10BrClF3NO2
reactant | trimethyl-prop-2-ynyl-silane | 1 mmol, 0.141 mL | C[Si](CC#C)(C)C | C6H12Si
solvent | diisopropyl amine | 4 mL | C(C)(C)NC(C)C | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 0.05 mmol, 0.019 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.05 mmol, 0.010 g | [Cu]I
product | 7-chloro-2-(4-trifluoromethoxy-benzyl)-5-trimethylsilanylethynyl-2,3-dihydro-isoindol-1-one | 0.100 g, 46% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C#C[Si](C)(C)C | C21H19ClF3NO2Si
